US04377580
A mixture of dimethyl [[6-(2,3-dimethylpentanamido)-4-quinazolinylamino]methylene]propanedioate (5.75 g) in diphenyl ether (28 ml) was stirred at 255° C. for 15 minutes and cooled to ambient temperature. The resulting solid was collected by filtration, washed with hexane, and dried. The crude crystals were chromatographed on silica gel with 4% methanol-chloroform. The product was recrystallized from a mixture of methanol and chloroform. There was obtained methyl 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (0.4 g). Concentration of the mother liquor gave a crystalline residue, which was recrystallized from a mixture of chloroform and hexane to give additional 4.25 g of the same product.

reactant | dimethyl [[6-(2,3-dimethylpentanamido)-4-quinazolinylamino]methylene]propanedioate | 5.75 g | CC(C(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OC)C(=O)OC)C(CC)C | C21H26N4O5
solvent | diphenyl ether | 28 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | methyl 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 0.4 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(C(C(CC)C)C)=O)C(=O)OC | C20H22N4O4
